### PR TITLE
feat(MultiTapeTM): Nondeterministic multi-tape Turing machines

### PR DESCRIPTION
**Pull request by barni120400**
This adds nondeterministic multi-tape Turing machines next to the deterministic ones from #384. The transition function is replaced by a transition relation ([Papadimitriou94] 2.7); nothing else about the model changes, so configurations and the effect of a single step move to a shared `MultiTape/Basic.lean`. No existing statement changes meaning.

The semantics is a labelled transition system on configurations, labelled by the emitted symbol. A computation is a chain of such transitions, in the style of `SimpleGraph.Walk`, recording the trajectory that space depends on and the labels that the output depends on. `MultiTapeTM.toNTM` embeds the deterministic machine and preserves computation in bounded time and space.

### CODE REVIEW

File: Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean [hunk 1]
```diff
@@ -0,0 +1,181 @@
...
+write-only output tape, and what it means for one to compute an output within a time and space
+bound.
+
+## Design
+
+Following [Papadimitriou94], chapter 2.7, a nondeterministic machine is a `MultiTapeTM` whose
+transition function is replaced by a transition relation: `Tr q input work out` holds when `out` is
+one of the transitions permitted in that situation. Configurations, transition outputs and
+`TransitionOut.apply` are shared with the deterministic machine.
+
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean:25]: Not sure if this is the right place, but I think we should clarify that in contrast to deterministic machines, it is possible that there is no successor configuration. This is not the same as halting because it does not reach a configuration with `state = none`. Maybe we should also cross-check what the textbooks say about this possibility.

File: Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean [hunk 2]
```diff
@@ -0,0 +1,181 @@
...
+`Option Symbol` (where `none` is the blank symbol). Neither `Symbol` nor `State` is required to be
+finite.
+-/
+structure MultiTapeNTM (k : ℕ) (Symbol State : Type*) where
+  /-- initial state -/
+  q₀ : State
+  /-- transition relation: which transitions are permitted for a state, the current input symbol
+  and a tuple of work head symbols -/
+  Tr (q : State) (input : Option Symbol) (work : Fin k → Option Symbol) :
+    TransitionOut k Symbol State → Prop
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean:73]:
```suggestion
  Tr (q : State) (input : Option Symbol) (work : Fin k → Option Symbol) (action : TransitionOut k Symbol State) : Prop
```

Since we are making big modifications here anyway, maybe we can find a better name for `TransitionOut` as well?

File: Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean [hunk 3]
```diff
@@ -0,0 +1,181 @@
...
+    ntm.Step c c' ↔ c' = c := by
+  simp [Step, LTS.UnlabelledTr, lts_tr_of_halt h_halt]
+
+/-- The initial configuration corresponding to an input string. -/
+@[simp]
+def initCfg (input : List Symbol) : Cfg k Symbol State input := Cfg.init ntm.q₀ input
+
+/-- A computation of `ntm` from configuration `c`: a chain of transitions of `lts`, in the style of
+`SimpleGraph.Walk`. -/
+inductive Computation (ntm : MultiTapeNTM k Symbol State) (input : List Symbol) :
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean:109]: Do you think (assuming we have https://github.com/leanprover/cslib/pull/779), this could also be defined via `List.isChain` - something like
````
structure Computation (ntm : MultiTapeNTM k Symbol State) (input : List Symbol) where
  configurations : List (Cfg k Symbol State input)
  isChain : configurations.isChain ntm.Step
```

File: Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean [hunk 4]
```diff
@@ -0,0 +1,181 @@
...
+@[scoped grind =]
+abbrev Step (c₁ c₂ : Cfg k Symbol State input) : Prop := (ntm.lts input).UnlabelledTr c₁ c₂
+
+/-- A halted configuration steps only to itself. -/
+theorem step_of_halt {c c' : Cfg k Symbol State input} (h_halt : c.Halted) :
+    ntm.Step c c' ↔ c' = c := by
+  simp [Step, LTS.UnlabelledTr, lts_tr_of_halt h_halt]
+
+/-- The initial configuration corresponding to an input string. -/
+@[simp]
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/NonDeterministic.lean:104]: I found this simp annotation a bit annoying for deterministic TMs, maybe we should remove it for both.
